US07935674B2
3-(5-Ethylthiophen-2-yl-methyl)-4-fluoro-1-(β-D-gluco-pyranosyl)indole
4-Fluoro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole obtained in Example 2-(3) and 5-ethylthiophen-2-carbonyl chloride were treated in a manner similar to Example 2-(4), (5), (6) and (7) to give the titled compound as a colorless powder. APCI-Mass m/Z 439 (M+NH4). 1H-NMR (DMSO-d6) δ 1.17 (t, J=7.5 Hz, 3H), 2.69 (q, J=7.5 Hz, 2H), 3.20-3.48 (m, 4H), 3.67 (m, 2H), 4.20 (s, 2H), 4.53 (br, 1H), 5.08 (br, 1H), 5.20 (br, 2H), 5.38 (d, J=9.2 Hz, 1H), 6.60 (d, J=3.3 Hz, 1H), 6.65 (d, J=3.2 Hz, 1H), 6.77 (dd, J=11.1, 7.8 Hz, 1H), 7.09 (m, 1H), 7.31 (s, 1H), 7.39 (d, J=8.3 Hz, 1H).

reactant | 4-Fluoro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole | FC1=C2C=CN(C2=CC=C1)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C22H24FNO9
reactant | 5-ethylthiophen-2-carbonyl chloride | C(C)C1=CC=C(S1)C(=O)Cl | C7H7ClOS
product | 3-(5-Ethylthiophen-2-yl-methyl)-4-fluoro-1-(β-D-gluco-pyranosyl)indole | C(C)C1=CC=C(S1)CC1=CN(C2=CC=CC(=C12)F)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C21H24FNO5S
